US07741341B2
500 mg (1.7 mmol) Methyl-2-trichloromethyl-1H-benzoimidazole-5-carboxylate were added to a mixture of 548 mg (1.8 equiv.) 1-isopropyl-piperidine-4-ylamine-dihydrochloride and 1.43 g (10 equiv.) NaHCO3 in 15 mL THF and 7.5 mL H2O and stirred vigorously for 4 h at room temperature. The reaction mixture was diluted with dichloromethane and washed with a saturated NaHCO3-solution and brine. The organic layer was dried over MgSO4 and concentrated. Preparative HPLC (CH3CN/H2O gradient+0.05% formic acid) gave pure 2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid methyl ester as a white solid.

reactant | Methyl-2-trichloromethyl-1H-benzoimidazole-5-carboxylate | 1.7 mmol, 500 mg | COC(=O)C1=CC2=C(NC(=N2)C(Cl)(Cl)Cl)C=C1 | C10H7Cl3N2O2
reactant | 1-isopropyl-piperidine-4-ylamine-dihydrochloride | 548 mg, 1.8 equiv. | Cl.Cl.C(C)(C)N1CCC(CC1)N
reactant | NaHCO3 | 1.43 g, 10 equiv. | C(=O)(O)[O-].[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | H2O | 7.5 mL | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(NC(=N2)C(NC2CCN(CC2)C(C)C)=O)C=C1 | C18H24N4O3
